US04761482
2-(2-Pinanylthio)-5-(octyldithio)-1,3,4-thiadiazole
Alpha-pinene (38 g, 0.28 mol) and 2,5-dimercapto-1,3,4-thiadiazole (40 g, 0.27 mol) were charged to the reaction flask and cautiously heated to 155° C. since the reaction was exothermic. The reaction was maintained at 155° C. for 15 min. and then cooled. Isopropanol (32 g) and n-octylmercaptan (43.7 g, 0.30 mol) were charged. Hydrogen peroxide, 35% (60 g, 0.62 mol) was added slowly while maintaining the temperature at 40°-50° C. The reaction was then allowed to stand overnight. The product was extracted with 150 ml of n-hexane and washed with 150 ml of 1M sodium carbonate. The organic layer was dried over magnesium sulfate, filtered, and the solvent removed by rotary evaporation.

reactant | Alpha-pinene | 0.28 mol, 38 g | CC1=CCC2CC1C2(C)C | C10H16
reactant | 2,5-dimercapto-1,3,4-thiadiazole | 0.27 mol, 40 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | n-octylmercaptan | 0.30 mol, 43.7 g | C(CCCCCCC)S | C8H18S
reactant | Hydrogen peroxide | OO | H2O2
solvent | Isopropanol | 32 g | C(C)(C)O | C3H8O
product | 2-(2-Pinanylthio)-5-(octyldithio)-1,3,4-thiadiazole | C12C(CCC(C1(C)C)C2)(C)SC=2SC(=NN2)SSCCCCCCCC | C20H34N2S4
